US07582668B2
To a cooled (0° C.) solution of 1,1-dimethylethyl [(1S)-1-({4-[1-(ethyloxy)ethenyl]phenyl}methyl)-3-hydroxypropyl]carbamate (15 g, 44 mmol) in tetrahydrofuran (450 mL) and water (150 mL) was added N-bromosuccinamide. The resulting solution was allowed to warm to room temperature and maintained for 90 minutes. The reaction was then concentrated and diluted with ethyl acetate (1 L). The resulting solution was washed with water (1 L) and brine (500 mL), dried (MgSO4) and concentrated to give 19.5 g (˜100%) of 1,1-dimethylethyl ((1S)-1-{[4-(bromoacetyl)phenyl]methyl}-3-hydroxypropyl)carbamate as a slightly yellow solid. ESMS [M+H]+: 386.2.

reactant | 1,1-dimethylethyl [(1S)-1-({4-[1-(ethyloxy)ethenyl]phenyl}methyl)-3-hydroxypropyl]carbamate | 44 mmol, 15 g | C(C)OC(=C)C1=CC=C(C=C1)C[C@@H](CCO)NC(OC(C)(C)C)=O | C19H29NO4
reactant | N-bromosuccinamide | BrNC(CCC(=O)N)=O | C4H7BrN2O2
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
solvent | water | 150 mL | O | H2O
product | 1,1-dimethylethyl ((1S)-1-{[4-(bromoacetyl)phenyl]methyl}-3-hydroxypropyl)carbamate | 19.5 g, ~100% | BrCC(=O)C1=CC=C(C=C1)C[C@@H](CCO)NC(OC(C)(C)C)=O | C17H24BrNO4
